US06921759B2
Step 1: N-(4-fluorobenzyl)-8-methoxy-5-(methylamino)-1,6-naphthyridine-7-carboxamide
To a suspension of N-(4-fluorobenzyl)-8-hydroxy-5-(methylamino)-1,6-naphthyridine-7-carboxamide (2.65 g, 8.12 mmol) in methanol (50 mL) and CH2Cl2 (20 mL) was added trimethylsilyldiazomethane (12.1 ml of a 2M solution in hexanes, 24.4 mmol) and the mixture was stirred for 16 hr at rt. Additional trimethylsilyldiazomethane (24.0 ml of a 2M solution in hexanes, 48 mmol) was added and the reaction was stirred for 16 hr. The reaction was quenched by the addition of acetic acid (2 mL) and the solvent was evaporated in vacuo. The residue was purified by flash chromatography eluting with MeOH/CH2Cl2 (5-15% gradient elution), to afford the title compound.

reactant | N-(4-fluorobenzyl)-8-hydroxy-5-(methylamino)-1,6-naphthyridine-7-carboxamide | 8.12 mmol, 2.65 g | FC1=CC=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)NC)C=C1 | C17H15FN4O2
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 50 mL | CO | CH4O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(4-fluorobenzyl)-8-methoxy-5-(methylamino)-1,6-naphthyridine-7-carboxamide | FC1=CC=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2OC)NC)C=C1 | C18H17FN4O2
